US09376385B2
Synthesis of 4-Azidobutyl Acetate (4.22)
To a 500 mL flask was added 5.0 g (33 mmol, 1.0 eq) of 4-chlorobutylacetate and dissolved in 100 mL of DMF. Next 2.6 g (40 mmol, 1.2 eq) of sodium azide was added by a glass pipette. A water condenser was placed onto the flask and the reaction heated to 80° C. for 16 hr with stirring. The reaction was then cooled to room temperature and quenched with 300 mL of water to dissolve the sodium salts. The aqueous solution was extracted with diethyl ether 3×100 mL. The organic layers were combined and dried with MgSO4. The solution was filtered and concentrated under vacuum with no external heat, resulting in 4-azido-1-butylacetate (4.22), which was carried onto the next step without further purification; 1H NMR (CDCl3, 300 MHz): δ: 4.04 (t, J=6.0 Hz, 2H), 3.27 (t, J=6.2 Hz, 2H), 2.00 (s, 3H), 1.76-1.52 (m, 4H). 13C NMR (75 MHz, CDCl3) δ: 170.82, 63.55, 50.84, 25.73, 25.39, 20.73. 81% yield, clear oil.

reactant | 4-chlorobutylacetate | 33 mmol, 5.0 g, 1.0 eq | ClCCCCOC(C)=O | C6H11ClO2
reactant | sodium azide | 40 mmol, 2.6 g, 1.2 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-Azidobutyl Acetate | 81% yield | C(C)(=O)OCCCCN=[N+]=[N-] | C6H11N3O2
